US05849930
Synthesis of 4- geranyloxy-N-[1,2-bis(4-methoxyphenylmethyl)-4-pyrazolidinyl]benzamide
To a solution of 4-amino-1,2-bis(4-methoxyphenylmethyl)pyrazolidine (0.80 g) in tetrahydrofuran anhydride (20 ml) was added 4-geranyloxybenzoylimidazole (0.79 g). The mixture was stirred at room temperature for one night. The reaction solution, with water added thereto, was extracted with ethyl acetate. The extract was concentrated under a vacuum and the residue was purified by silica gel column chromatography (chloroform) and then recrystallized from ethyl acetate, thereby yielding 0.65 g (45%) of the aimed compound.

reactant | 4-amino-1,2-bis(4-methoxyphenylmethyl)pyrazolidine | 0.80 g | NC1CN(N(C1)CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC | C19H25N3O2
reactant | 4-geranyloxybenzoylimidazole | 0.79 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)C=2NC=CN2)C=C1 | C20H24N2O2
solvent | water | O | H2O
product | 4- geranyloxy-N-[1,2-bis(4-methoxyphenylmethyl)-4-pyrazolidinyl]benzamide | 0.65 g, 45% | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)NC2CN(N(C2)CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)C=C1 | C36H45N3O4
